US07939672B2
Diisopropylamine (5.04 ml, 1.5 eq) in anhydrous THF at −78° C. and n-butyllithium in hexane were mixed and dissolved into 2.5 M of solution (10.55 ml, 1.1 eq). The 2-(4-bromophenyl)-methylbutyric acid methyl ester (6.5 g, 1 eq) in the Step 2 was added into the solution and stirred. After 30 minutes, 1,3-dibromopropane (7.31 ml, 3 eq) was dissolved in anhydrous THF. The mixture was dropped into the solution and stirred at room temperature overnight. When the reaction was completed, the compound was extracted with diethylether and water, washed with 1N HCl and saturated NaHCO3. The organic layer was dried with anhydrous magnesium sulfate and the solvent was removed at low pressures. Subsequently, the target compound 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic methyl ester was obtained by separation and purification of the mixture using a column chromatography (ethyl acetate:n-hexane=1:100) (5.98 g, 44%).

reactant | Diisopropylamine | 5.04 ml, 1.5 eq | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(4-bromophenyl)-methylbutyric acid methyl ester | 6.5 g, 1 eq | COC(C(CC)(C1=CC=C(C=C1)Br)C)=O | C12H15BrO2
reactant | 1,3-dibromopropane | 7.31 ml, 3 eq | BrCCCBr | C3H6Br2
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic methyl ester | COC(C(CCCBr)(C(C)C)C1=CC=C(C=C1)Br)=O | C15H20Br2O2
